US06531502B1
3,5-Diisopropyl-4-methoxybenzaldehyde was condensed with 5-methoxycarbonyl-2-oxindole to give 0.25 g of 3-(3,5-Diisopropyl-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid methyl ester as a yellow-orange solid.

reactant | 3,5-Diisopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1OC)C(C)C | C14H20O2
reactant | 5-methoxycarbonyl-2-oxindole | COC(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO3
product | 3-(3,5-Diisopropyl-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid methyl ester | 0.25 g | COC(=O)C=1C=C2C(C(NC2=CC1)=O)=CC1=CC(=C(C(=C1)C(C)C)OC)C(C)C | C24H27NO4
